US04727150
To a solution of 2-(3-methyl-4-propoxy-2-pyridyl)methylthiobenzimidazole (1 g) in chloroform (20 ml) was added dropwise over 10 minutes under ice-cooling m-chloroperbenzoic acid (750 mg) dissolved in chloroform (10 ml). The solution was chromatographed directly on a column of silica gel (50 g), which was eluted with ethyl acetatehexane (1:1) and then with 5% methanol-ethyl acetate. From the eluate was removed the solvent. The residue was recrystallized from acetone-ether-hexane to give 415 mg of 2-[3-methyl-4-propoxy-2-pyridyl)methylsulfinylbenzimidazole.4/5H2O as crystals, m.p. 81°-83° C.

reactant | 2-(3-methyl-4-propoxy-2-pyridyl)methylthiobenzimidazole | 1 g | CC=1C(=NC=CC1OCCC)CSC=1NC2=C(N1)C=CC=C2 | C17H19N3OS
reactant | m-chloroperbenzoic acid | 750 mg | ClC1=CC(=CC=C1)C(=O)OO | C7H5ClO3
solvent | chloroform | 20 ml | C(Cl)(Cl)Cl | CHCl3
solvent | chloroform | 10 ml | C(Cl)(Cl)Cl | CHCl3
product | 2-[3-methyl-4-propoxy-2-pyridyl)methylsulfinylbenzimidazole | 415 mg | CC=1C(=NC=CC1OCCC)CS(=O)C=1NC2=C(N1)C=CC=C2 | C17H19N3O2S
